US07259166B2
A mixture of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3-oxo-cyclopentyl)-propionic acid (544 mg, 1.58 mmol), methylene chloride (7 mL), toluene (5 mL), and a catalytic amount of N,N-dimethylformamide (10 μL, 0.13 mmol) under nitrogen was treated with oxalyl chloride (1.4 mL, 16.3 mmol). The reaction was stirred for 1 h (gas evolution). At this time, the reaction was then partially evaporated in vacuo at 25° C. to remove excess oxalyl chloride. The residue was co-evaporated with toluene (2×4 mL) and concentrated in vacuo to about 4 mL. The resulting brown slurry was added via a cannula over 15 min to a mixture of 2-aminopyrazine (189 mg, 1.99 mmol), methylene chloride (4 mL), and pyridine (170 μL, 2.1 mmol) cooled to −10° C. The reaction was allowed to warm to 25° C., where it was stirred for 18 h. At this time, the reaction was quenched with water (700 μL) followed by a 1M aqueous citric acid solution (5 ml, 5 mmol). The reaction then was diluted with ethyl acetate (40 ml) and a 1M aqueous citric acid solution (20 mL), mixed well, and the phases were separated. The organic phase was washed with a 1M aqueous citric acid solution 3×5 mL). The combined aqueous phases were back-extracted with ethyl acetate (30 mL). The combined organic phases were washed with a 10% aqueous potassium bicarbonate solution 3×25 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford a crude product (506.6 mg, 76%) as a brown foam. Flash chromatography (Merck Silica gel 60, 230-400 mesh, ethyl acetate) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide (442 mg, 66%) as a tan foam. HPLC (Zorbax XDB-C8 150×5 mm, 20-100% acetonitrile/water over 20 min, 20 min run, 220 nm, 1 cc/min Rt=7.7 min) indicated 95.3 area % purity, and HPLC (Chiralpak AD-RH, 150×5 mm, 5 ethanol/5 methanol/4 water, 60 min run, 220 nm, 0.5 cc/min, Rt of 2(R), 3(S)=25.2 min; 2(R), 3(R) =39.2 min) showed 90.5% de.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3-oxo-cyclopentyl)-propionic acid | 1.58 mmol, 544 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)C[C@H]1CC(CC1)=O | C15H17ClO5S
reactant | N,N-dimethylformamide | 0.13 mmol, 10 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 16.3 mmol, 1.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyrazine | 1.99 mmol, 189 mg | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 2.1 mmol, 170 μL | N1=CC=CC=C1 | C5H5N
reactant | citric acid | 5 mmol, 1M, 5 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 1M, 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide | 442 mg, 66% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=CN=C1)C[C@H]1CC(CC1)=O | C19H20ClN3O4S
